US06410556B1
3-Hydroxy-2-methylbenzoic acid methyl ester (0.5 g, 3.01 mmol) in dichloromethane (15 ml) and N,N-diisopropylethylamine (1.57 ml, 9.03 mmol) was cooled to 0° C. under nitrogen. Chloromethyl methyl ether (0.46 ml, 6.02 mmol) was added dropwise and the reaction allowed warming to room temperature over a period of 18 hours. The reaction was judged to be 50% complete by tlc (1:2 ethyl acetate/hexanes, 12) and therefore, N,N-diisopropylethylamine (1.57 ml, 9.03 mmol) was added, the reaction mixture cooled to 0° C. and chloromethyl methyl ether (0.46 ml, 6.02 mmol) added once more. The reaction mixture was warmed to room temperature and stirred for 5 hours. The reaction was quenched with water and the layers separated. The aqueous layer was extracted once with dichloromethane and the organic layers combined, dried (MgSO4), filtered, and concentrated in vacuo. The crude residue was purified by column chromatography (20% ethyl acetate/hexanes) affording 0.44 g (69%) of 3-methoxymethoxy-2-methyl-benzoic acid methyl ester as an oil.

reactant | 3-Hydroxy-2-methylbenzoic acid methyl ester | 3.01 mmol, 0.5 g | COC(C1=C(C(=CC=C1)O)C)=O | C9H10O3
reactant | N,N-diisopropylethylamine | 9.03 mmol, 1.57 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Chloromethyl methyl ether | 6.02 mmol, 0.46 ml | COCCl | C2H5ClO
reactant | N,N-diisopropylethylamine | 9.03 mmol, 1.57 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 6.02 mmol, 0.46 ml | COCCl | C2H5ClO
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-methoxymethoxy-2-methyl-benzoic acid methyl ester | 0.44 g, 69% | COC(C1=C(C(=CC=C1)OCOC)C)=O | C11H14O4
